US05120843
2,6-Dimethyl-4-[3-(2,4-bis(1-pyrrolidinyl)-6-pyrimidinyl)piperazinyl)propyl phenol (I/A-22)
2,6-Dimethyl-4-[3-(2,4-bis(1-pyrrolidinyl)-6-pyrimidinyl)piperazinyl)propyl phenol O-mesylate (Part I, 1.0 g) in aqueous sodium hydroxide (25%, 10 ml) and methanol (20 ml) are stirred at 50° under nitrogen for 20 hr. The mixture is cooled and the methanol removed under reduced pressure. The aqueous layer is acidified with aqueous hydrochloric acid (10%) and then the pH adjusted to 8 with aqueous saturated sodium bicarbonate. The product is extracted with methylene chloride (2×). The extracts are washed with water, dried over sodium sulfate and concentrated. The concentrate is crystallized from ether/hexane to give the title compound.

reactant | 2,6-Dimethyl-4-[3-(2,4-bis(1-pyrrolidinyl)-6-pyrimidinyl)piperazinyl)propyl phenol O-mesylate | 1.0 g | S(C)(=O)(=O)OC1=C(C=C(C=C1C)CCCN1CC(NCC1)C1=CC(=NC(=N1)N1CCCC1)N1CCCC1)C | C28H42N6O3S
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2,6-Dimethyl-4-[3-(2,4-bis(1-pyrrolidinyl)-6-pyrimidinyl)piperazinyl)propyl phenol | CC1=C(C(=CC(=C1)CCCN1CC(NCC1)C1=CC(=NC(=N1)N1CCCC1)N1CCCC1)C)O | C27H40N6O
